US03962224
A mixture of methyl 2-chloro-2-methoxyacetate (13.86 g., 0.1 mole), powdered sodium azide (8.46 g., 0.13 mole) and dry dimethoxyethane (80ml.) is stirred and heated at reflux for 39 hours. After cooling to room temperature, the mixture is filtered to remove salts which are washed with dry ether. Evaporation of the solvents at aspirator pressure leaves a yellow liquid which is distilled to give methyl 2-azido-2-methoxyacetate (10.5 g.) as a water-white liquid (b.p. 75°-77°C./17 mm.).

reactant | methyl 2-chloro-2-methoxyacetate | 0.1 mole, 13.86 g | ClC(C(=O)OC)OC | C4H7ClO3
reactant | sodium azide | 0.13 mole, 8.46 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethoxyethane | 80ml | C(OC)COC | C4H10O2
product | methyl 2-azido-2-methoxyacetate | 10.5 g | N(=[N+]=[N-])C(C(=O)OC)OC | C4H7N3O3
